US07601870B2
N-(4-Bromo-2-methyl-6-nitro-phenyl)-3,3-dimethyl-butyramide
4-Bromo-2-methyl-6-nitro-phenylamine (2.22 g) and tert-butylacetyl chloride (1.30 g) were mixed in acetonitrile (3 mL) and heated to 140° C. for 40 minutes in a sealed microwave process vial. Water (5 mL) was added and the product was collected by filtration and washed with water and heptane to furnish 2.80 g (86% yield) of the title compound as a yellow solid. LC-MS (m/z) 329 (MH+); tR=3.07, (UV, ELSD) 96%, 99%. 1H NMR (500 MHz, DMSO-d6): 1.01 (s, 9H), 2.21 (s, 2H), 2.29 (s, 3H), 7.87 (d, 1H), 7.95 (d, 1H), 9.77 (s, 1H).

reactant | 4-Bromo-2-methyl-6-nitro-phenylamine | 2.22 g | BrC1=CC(=C(C(=C1)[N+](=O)[O-])N)C | C7H7BrN2O2
reactant | tert-butylacetyl chloride | 1.30 g | C(C)(C)(C)CC(=O)Cl | C6H11ClO
reactant | Water | 5 mL | O | H2O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | N-(4-Bromo-2-methyl-6-nitro-phenyl)-3,3-dimethyl-butyramide | 2.80 g, 86% yield | BrC1=CC(=C(C(=C1)[N+](=O)[O-])NC(CC(C)(C)C)=O)C | C13H17BrN2O3
